US05616586
9-Bromo-5-(m-sulfamoylphenylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 51 was carried out with 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (170 mg, 0.5 mmol) and m-sulfamoylaniline (100 mg, 0.58 mmol) to give 209 mg of the title compound (85%): mp>270° C.; 1H NMR (270 MHz, DMSO-d6) δ12.07 (s, 1H), 10.33 (s, 1H), 8.13 (s, 1H), 7.70~7.78 (m, 1H), 7.45~7.55 (m,2H), 7.24 (bs, 1H), 7.15 (bs, 1H), 5.15~5.28 (m, 1H), 3.06 (ddd, 1H, J=17.1, 13.5, 4.5 Hz), 2.83 (dm, 1H, J=16.8 Hz), 2.65 (dd, 1H, J=18, 13.5 Hz), 2.58 (dd, 1H, J=18, 5.4 Hz), 2.12 (dm, 1H, J=13.5 Hz), 1.80~1.97 (m, 1H).

reactant | 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0.5 mmol, 170 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(=O)O | C13H11BrN2O4
reactant | m-sulfamoylaniline | 0.58 mmol, 100 mg | S(N)(=O)(=O)C=1C=C(N)C=CC1 | C6H8N2O2S
product | 9-Bromo-5-(m-sulfamoylphenylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 209 mg, 85% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(NC2=CC(=CC=C2)S(N)(=O)=O)=O | C19H17BrN4O5S
